US05166188
3-((2-(3,4-Dimethoxyphenyl)ethyl)amino)butyronitrile
A mixture of 10.0 g of 2-(3,4-dimethoxyphenyl)ethylamine with 14 ml of crotononitrile was stirred at 100° C. for 30 h.

reactant | 2-(3,4-dimethoxyphenyl)ethylamine | 10.0 g | COC=1C=C(C=CC1OC)CCN | C10H15NO2
reactant | crotononitrile | 14 ml | C(\C=C\C)#N | C4H5N
product | 3-((2-(3,4-Dimethoxyphenyl)ethyl)amino)butyronitrile | COC=1C=C(C=CC1OC)CCNC(CC#N)C | C14H20N2O2
